US04105435
Preparation of β-[4-(4-Trifluoromethylphenoxy)phenoxy]propanol
6.6 g of methyl-α-[4-(4-trifluoromethylphenoxy)phenoxy]propionate was dissolved in 15 ml of anhydrous diethyl ether, and the solution was added slowly to a dispersion of 0.4 g of lithium aluminum hydride in 50 ml of anhydrous diethyl ether while cooling. After completion of the addition, the mixture was refluxed at about 35° C for 10 minutes to complete the reaction. The reaction mixture was poured into an appropriate amount of ice water to decompose any remaining unreacted lithium aluminum hydride, and 10% sulfuric acid was added to the mixture. The ethereal layer was separated, extracted twice with diethyl ether and dried over anhydrous sodium sulfate. The ether was removed from the dried extract and the resulting residue was distilled under reduced pressure to obtain 4.8 g of the desired product having a boiling point of 165° to 168° C/3mmHg.

reactant | methyl-α-[4-(4-trifluoromethylphenoxy)phenoxy]propionate | 6.6 g | COC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C17H15F3O4
reactant | lithium aluminum hydride | 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | β-[4-(4-Trifluoromethylphenoxy)phenoxy]propanol | 4.8 g | FC(C1=CC=C(OC2=CC=C(OC(CO)C)C=C2)C=C1)(F)F | C16H15F3O3
